US06362178B1
5-Methyl-2-[5-(4-methyl-piperazine-1-sulphonyl)-2-propoxy-phenyl]-7-propyl-3H-imidazo[5,1-f][1,2,4]triazin-4-one hydrochloride
22 mg (0.045 mmol) of 5-methyl-2-[5-(4-methyl-piperazine-1-sulphonyl)-2-propoxy-phenyl]-7-propyl-3H-imidazo[5,1-f][1,2,4]triazin-4-one are dissolved in 2 ml of ether and 1 ml of dichloromethane and admixed with 0.1 ml of a 1M solution of HCl in ether. After 20 minutes, the precipitate is filtered off with suction and dried.

reactant | 5-methyl-2-[5-(4-methyl-piperazine-1-sulphonyl)-2-propoxy-phenyl]-7-propyl-3H-imidazo[5,1-f][1,2,4]triazin-4-one | 0.045 mmol, 22 mg | CC=1N=C(N2N=C(NC(C21)=O)C2=C(C=CC(=C2)S(=O)(=O)N2CCN(CC2)C)OCCC)CCC | C23H32N6O4S
reactant | dichloromethane | 1 ml | ClCCl | CH2Cl2
reactant | HCl | Cl | ClH
solvent | ether | 2 ml | CCOCC | C4H10O
product | 5-Methyl-2-[5-(4-methyl-piperazine-1-sulphonyl)-2-propoxy-phenyl]-7-propyl-3H-imidazo[5,1-f][1,2,4]triazin-4-one hydrochloride | Cl.CC=1N=C(N2N=C(NC(C21)=O)C2=C(C=CC(=C2)S(=O)(=O)N2CCN(CC2)C)OCCC)CCC | InChI=1S/C23H32N6O4S.ClH/c1-5-7-20-24-16(3)21-23(30)25-22(26-29(20)21)18-15-17(8-9-19(18)33-14-6-2)34(31,32)28-12-10-27(4)11-13-28;/h8-9,15H,5-7,10-14H2,1-4H3,(H,25,26,30);1H
